US07071340B2
1.2 g of potassium hydroxide pellets are added to 4 g (18.5 mmol) of methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate, prepared according to example 35, in solution in 20 ml of 80% aqueous ethanol. The medium is brought to reflux for 4 hours and then, after cooling, is treated with 1N hydrochloric acid until precipitation. The solid is filtered off and dried to give 3.3 g (88%) of 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylic acid in the form of a white solid; M.p.=188° C.

reactant | potassium hydroxide | 1.2 g | [OH-].[K+]
reactant | methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate | 18.5 mmol, 4 g | C=C1COC2=C(C=C1)C=C(C=C2)C(=O)OC | C13H12O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylic acid | 3.3 g, 88% | C=C1COC2=C(C=C1)C=C(C=C2)C(=O)O | C12H10O3
